US05723475
Synthesis of N-(2,6-dimethylphenyl)-2-bromoacetamide (18)
2,6-dimethylaniline and bromoacetyl bromide were used to produce the above compound in the same way as Reference Example 8.

reactant | 2,6-dimethylaniline | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
product | N-(2,6-dimethylphenyl)-2-bromoacetamide | CC1=C(C(=CC=C1)C)NC(CBr)=O | C10H12BrNO
